US04352804
Phenyl pyrazinyl ketone oxime (8.0 g) was stirred in 100 ml of dimethyl formamide containing 2.0 g of a 50% dispersion of sodium hydride in oil, for 0.5 hours at room temperature. Chloroacetonitrile (2.7 g) was added. The reaction mixture was stirred for 1 hour. The greater part of the dimethylformamide was evaporated under reduced pressure and the residue was treated with ether and water. The ether layer was separated and dried over magnesium sulphate. The product was recrystallized from a mixture of ether and petroleum ether (40°-60° C.), yielding pure phenyl pyrazinyl ketone, O-cyanomethyl oxime (5.6 g, m.p. 87°-89° C.).

reactant | Phenyl pyrazinyl ketone oxime | 8.0 g | N1=C(C=NC=C1)C(C1=CC=CC=C1)=NO | C11H9N3O
reactant | sodium hydride | [H-].[Na+]
reactant | Chloroacetonitrile | 2.7 g | ClCC#N | C2H2ClN
reactant | dimethyl formamide | 100 ml, 2.0 g | CN(C=O)C | C3H7NO
product | phenyl pyrazinyl ketone | N1=C(C=NC=C1)C(=O)C1=CC=CC=C1 | C11H8N2O
